US05254466
Fermentation of dodecane with strain H534 under the standard fermentation conditions (Example 20) produced approximately 139 g/l within 233 hrs with a substrate conversion efficiency of 32.1%. The final production rate was 0.58 g/l/hr. The product was 82.7% dodecanedioic acid. The remaining product was predominantly adipic acid. With methyl laurate as the substrate, H534 produced 115.3 g/l dicarboxylic acid within 223 hrs with a substrate conversion efficiency of 34.6%. The production rate was 0.49 g/l/hr. The product was 89.1% dodecanedioic acid. The remaining product was predominantly adipic acid.

reactant | dodecanedioic acid | C(CCCCCCCCCCC(=O)O)(=O)O | C12H22O4
reactant | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
product | methyl laurate | C(CCCCCCCCCCC)(=O)OC | C13H26O2
